US08217032B2
1-(2-{4-[2-(2,3-Difluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-piperidine
Using the procedure demonstrated in Example 9, react trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-yl ester (800 mg, 1.52 mmol), 2,3-difluorobenzene boronic acid (720 mg, 4.57 mmol), cesium fluoride (2.1 g, 13.7 mmol), palladium(II)acetate (34 mg, 0.15 mmol) and tricyclohexylphosphine (64 mg, 0.23 mmol) to obtain 622 mg (84%) of the title compound: mass spectrum (ion spray) 490.4 (M+H).

reactant | trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-yl ester | 1.52 mmol, 800 mg | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)OS(=O)(=O)C(F)(F)F | C25H26F3NO6S
reactant | 2,3-difluorobenzene boronic acid | 4.57 mmol, 720 mg | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
reactant | cesium fluoride | 13.7 mmol, 2.1 g | [F-].[Cs+]
reactant | tricyclohexylphosphine | 0.23 mmol, 64 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | palladium(II)acetate | 0.15 mmol, 34 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(2-{4-[2-(2,3-Difluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-piperidine | 622 mg, 84% | FC1=C(C=CC=C1F)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1 | C30H29F2NO3
